US05137920
2.47 g of potassium t-butylate were added to a suspension of 5.06 g of 6-(dimethylamino)hexyl-triphenylphosphonium bromide hydrobromide (see Example 1 a) in 50 ml of tetrahydrofuran at 0° under argon. To this suspension was added dropwise within 15 minutes a solution of 1.64 g of methyl p-formylbenzoate in 20 ml of tetrahydrofuran. The reaction mixture was stirred at room temperature for 18 hours and then evaporated. The residue was dissolved in 100 ml of 1N hydrochloric acid and the aqueous phase was washed three times with 100 ml of diethyl ether. The aqueous phase was made basic with solid potassium carbonate and extracted three times with 100 ml of ether. The ethereal phases were dried over magnesium sulphate and evaporated. The residue was chromatographed on 100 g of silica gel with methylene chloride/methanol/ammonium hydroxide 100:10:1. There were obtained 880 mg (32%) of methyl 4-[(Z)-7-(dimethylamino)-1-heptenyl]benzoate as a colourless oil.

reactant | 6-(dimethylamino)hexyl-triphenylphosphonium bromide hydrobromide | 5.06 g | Br.[Br-].CN(CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | methyl p-formylbenzoate | 1.64 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 4-[(Z)-7-(dimethylamino)-1-heptenyl]benzoate | 880 mg, 32% | CN(CCCCC\C=C/C1=CC=C(C(=O)OC)C=C1)C | C17H25NO2
